US06127386
177b. 5-Allyl-3-(1-methyl-2-(S)-pyrrolidinylmethoxy)pyridine dihydrochloride
To a solution of 5-allyl-3-(1-methyl-2-(S)-pyrrolidinylmethoxy)pyridine in Et2O was added hydrogen chloride (1.0 M in Et2O) carefully to afford the tittle compound: mp 65-67° C.; 1H NMR (D2O) δ 2.00-2.17 (m, 2H), 2.23 (m, 1H), 2.41 (m, 1H), 3.05 (s, 3H), 3.27 (m, 1H), 3.56 (dd, 2H, J=3.5, 7.0 Hz), 3.77 (m, 1H), 3.95 (m, 1H), 4.44 (dd, 1H, J=6.0, 11.0 Hz), 4.60 (dd, 1H, J=3.0, 11.0 Hz), 5.18-5.24 (m, 2H), 6.04 (m, 1H), 7.88 (s, 1H), 8.28 (s, 1H), 8.35 (s, 1H); MS (CI/NH3) m/z 232 (M+H)+. Anal. Calcd for C14H20N2O.2 HCl.H2O: C, 52.02; H, 7.48; N, 8.67. Found: C, 52.15; H, 7.42; N, 8.72. [α]25D -4.77 (c 2.41, MeOH).

reactant | 5-allyl-3-(1-methyl-2-(S)-pyrrolidinylmethoxy)pyridine | C(C=C)C=1C=C(C=NC1)OC[C@H]1N(CCC1)C | C14H20N2O
reactant | hydrogen chloride | 1.0 M | Cl | ClH
reactant | HCl.H2O | Cl.O
reactant | MeOH | CO | CH4O
solvent | Et2O | CCOCC | C4H10O
product | 5-Allyl-3-(1-methyl-2-(S)-pyrrolidinylmethoxy)pyridine dihydrochloride | Cl.Cl.C(C=C)C=1C=C(C=NC1)OC[C@H]1N(CCC1)C | InChI=1S/C14H20N2O.2ClH/c1-3-5-12-8-14(10-15-9-12)17-11-13-6-4-7-16(13)2;;/h3,8-10,13H,1,4-7,11H2,2H3;2*1H/t13-;;/m0../s1
